US08133909B2
(6-Trifluoromethyl-pyridin-3-yl)-acetonitrile
To a solution of (6-trifluoromethyl-pyridin-3-yl)-methanol (4.93 g, 27.8 mmol) in THF (50 mL) were added N,N-diisopropyl ethyl amine (5.7 mL, 33 mmol) and 4-dimethyl-aminopyridine (17 mg, 0.14 mmol). After cooling to 0° C. thionyl chloride (4.8 mL, 56 mmol) was added dropwise over a period of 10 min. After stirring for 30 min. at 0° C., the ice bath was replaced with a water bath and stirred for 2 h at ambient temperature. The resulting brown reaction mixture was concentrated in vacuo, diluted with TBME (50 mL) and cooled to 0° C. before aqueous NaHCO3 (1M, 100 mL) was added. The mixture was stirred for 30 min., the aqueous layers were extracted with TBME (50 mL) and the combined organic layers were washed with aqueous NaHCO3 (1M, 50 mL) and brine (50 mL). Drying over sodium sulphate was followed by concentration. The resulting oil (6.44 g) was dissolved in DMSO (15 mL) and sodium cyanide (1.36 g, 27.8 mmol) was added. The resulting dark reaction mixture was stirred for 18 h at ambient temperature under a nitrogen atmosphere. It was diluted with TBME (50 mL) and treated with ice (30 g) and water (50 mL). The aqueous layer was separated and extracted with TBME (50 mL). The organic layers were washed twice with water (50 mL) and brine (30 mL), dried over sodium sulfate and concentrated. Purification by chromatography (SiO2, heptane:ethyl acetate=95:5 to 50:50) afforded the title compound (3.59 g, 59%) as a light brown oil. MS m/e: 185.3 [M−H]−.

reactant | (6-trifluoromethyl-pyridin-3-yl)-methanol | 27.8 mmol, 4.93 g | FC(C1=CC=C(C=N1)CO)(F)F | C7H6F3NO
reactant | N,N-diisopropyl ethyl amine | 33 mmol, 5.7 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | thionyl chloride | 56 mmol, 4.8 mL | S(=O)(Cl)Cl | Cl2OS
reactant | sodium cyanide | 27.8 mmol, 1.36 g | [C-]#N.[Na+]
solvent | THF | 50 mL | C1CCOC1 | C4H8O
solvent | TBME | 50 mL | CC(C)(C)OC | C5H12O
solvent | water | 50 mL | O | H2O
product | (6-Trifluoromethyl-pyridin-3-yl)-acetonitrile | 3.59 g, 59% | FC(C1=CC=C(C=N1)CC#N)(F)F | C8H5F3N2
